US03966732
5-(2-Acetoxyethoxy)-2-(5-nitro-1-methyl-2-imidazolyl)pyrimidine
0.29 g. (1 millimole) of 5-(2-hydroxyethoxy)-2-(5-nitro-1-methyl-2-imidazolyl)-pyrimidine hydrochloride is heated in 3 ml. of acetic anhydride to 100° C. for 1 hour. After cooling, the reaction mixture is introduced into water and the product is filtered off; m.p. 148°-150° C.

reactant | 5-(2-hydroxyethoxy)-2-(5-nitro-1-methyl-2-imidazolyl)-pyrimidine hydrochloride | 1 millimole | Cl.OCCOC=1C=NC(=NC1)C=1N(C(=CN1)[N+](=O)[O-])C
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 5-(2-Acetoxyethoxy)-2-(5-nitro-1-methyl-2-imidazolyl)pyrimidine | C(C)(=O)OCCOC=1C=NC(=NC1)C=1N(C(=CN1)[N+](=O)[O-])C | C12H13N5O5
